US05089495
Diethyl azodicarboxylate (0.38 ml) was added dropwise to a mixture of 2-[1-(3 hydroxyphenyl)-1-methoxypropyl]thiazole (0.37 g), triphenylphosphine (0.57 g), 3-(3-pyridyl)prop-2-en-1-ol (0.27 g) and tetrahydrofuran (7 ml) which had been cooled to 0°-5° C. in an ice-bath. The mixture was stirred at this temperature range for 2 hours and then at ambient temperature for 4 hours. Further portions of diethyl azodicarboxylate (0.1 ml), triphenylphosphine (0.14 g) and the propenol (0.045 g) were added and the mixture was stirred at ambient temperature for 18 hours. The mixture was partitioned between ethyl acetate (40 ml) and dilute aqueous hydrochloric acid (40 ml). The aqueous layer was separated and basified by adding potassium carbonate portionwise. The resulting solution was extracted with ethyl acetate (3×20 ml). The combined extracts were dried (Na2SO4) and evaporated. The residue was purified by column chromatography eluting with toluene/ethyl acetate (2/3 v/v) to give 2-[1-[3-(3-pyridyl)prop-2-en-1-yloxy)phenyl[-1-methoxypropylthiazole as a colourless oil (0.162 g).

reactant | Diethyl azodicarboxylate | 0.38 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-[1-(3 hydroxyphenyl)-1-methoxypropyl]thiazole | 0.37 g | OC=1C=C(C=CC1)C(CC)(OC)C=1SC=CN1 | C13H15NO2S
reactant | triphenylphosphine | 0.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(3-pyridyl)prop-2-en-1-ol | 0.27 g | N1=CC(=CC=C1)C=CCO | C8H9NO
reactant | diethyl azodicarboxylate | 0.1 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | propenol | 0.045 g | C(=CC)O | C3H6O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 1-methoxypropylthiazole | 0.162 g | COC(CC)C=1SC=CN1 | C7H11NOS
